US08975398B2
(S)-tert-butyl 4-(4-(1-(pyridazin-3-yl)pyrrolidine-3-carboxamido)phenoxy)piperidine-1-carboxylate
The title compound was prepared as described in Example 1A, substituting tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and (S)-1-(pyridazin-3-yl)pyrrolidine-3-carboxylic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | (S)-1-(pyridazin-3-yl)pyrrolidine-3-carboxylic acid | N1=NC(=CC=C1)N1C[C@H](CC1)C(=O)O | C9H11N3O2
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | (S)-tert-butyl 4-(4-(1-(pyridazin-3-yl)pyrrolidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | N1=NC(=CC=C1)N1C[C@H](CC1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H33N5O4
